US04025652
A mixture of 25.6 g. (0.1 mole) of 1-(2,6-dimethylphenyl)-3-(t-butylcarbamyl)thiourea and 200 ml. of conc. hydrochloric acid is refluxed for 1/2 hour. The reaction mixture is cooled, the solid filtered and washed with 10 ml. of 1:1 HCl/H2O and dried. The product is then recrystallized from ethanol-ether to obtain 1-(2,6-dimethylphenyl)-3-carbamylthiourea.

reactant | 1-(2,6-dimethylphenyl)-3-(t-butylcarbamyl)thiourea | 0.1 mole | CC1=C(C(=CC=C1)C)NC(=S)NC(NC(C)(C)C)=O | C14H21N3OS
reactant | hydrochloric acid | Cl | ClH
product | 1-(2,6-dimethylphenyl)-3-carbamylthiourea | CC1=C(C(=CC=C1)C)NC(=S)NC(N)=O | C10H13N3OS
